US07259177B2
Analogously to the building block synthesis of 4-iodomethyl-5-phenyl-2-p-tolyloxazole, diacetylmonoxime and 3,4-dimethoxybenzaldehyde gave 4-iodomethyl-5-methyl-2-(3,4-dimethoxyphenyl)oxazole.

reactant | 4-iodomethyl-5-phenyl-2-p-tolyloxazole | ICC=1N=C(OC1C1=CC=CC=C1)C1=CC=C(C=C1)C | C17H14INO
reactant | diacetylmonoxime | C/C(=N\O)/C(=O)C | C4H7NO2
reactant | 3,4-dimethoxybenzaldehyde | COC=1C=C(C=O)C=CC1OC | C9H10O3
product | 4-iodomethyl-5-methyl-2-(3,4-dimethoxyphenyl)oxazole | ICC=1N=C(OC1C)C1=CC(=C(C=C1)OC)OC | C13H14INO3
